US06514964B1
Step A: (4-aminobutyl )pyrazin-2-ylamine
(4-aminobutyl)pyrazin-2-ylamine was prepared by refluxing 2-chloropyrazine and 1,4-diaminobutane in pyridine (50 mL) for 18 hrs. The solution was then concentrated in vacuo and the residue was partitioned between ethyl acetate and 10% sodium carbonate. The phases were separated, and the organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The desired product was isolated by flash chromatography using 10:1:1 Ethanol/Ammonium Hydroxide/water. EI-MS m/z 167 (M+H)+.

reactant | 2-chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 1,4-diaminobutane | NCCCCN | C4H12N2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (4-aminobutyl )pyrazin-2-ylamine | NCCCCNC1=NC=CN=C1 | C8H14N4
